US08124617B2
Methyl 3-hydroxy-5-phenoxybenzoate
Methyl 3,5-dihydroxybenzoate (20 g., 0.12 mole, 1 eq), phenylboronic acid (30 g., 0.25 mole, 2.1 eq.), Copper II acetate (45 g., 0.25 mmole, 2.1 eq.), TEA (90 mL, 0.65 mmole, 5.4 eq.) in dichloromethane (200 mL) and 4 Angstrom molecular sieves (35 g) were stirred at ambient temperature for 24 h under nitrogen gas. The reaction mixture was filtered through silica gel 60 to remove copper acetate to give 8.8 g (30% yield) of crude product. Flash chromatography gave product at 40% ethyl acetate in an ethyl acetate/hexane system. The product is an off-white solid (2.0 g, 7% yield). 1H NMR (400 MHz, chloroform-d3) δ ppm 9.64 (s, 1H), 7.43 (m, 2H), 7.28 (s, 1H), 7.31 (s, 1H), 7.11-7.06 (m, 3H), 6.81 (s, 1H), 3.79s (s, 3H); Calc'd for C14H12O4; m/z (M+H+)=245; found 245.

reactant | Methyl 3,5-dihydroxybenzoate | 0.12 mole, 20 g, 1 eq | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | phenylboronic acid | 0.25 mole, 30 g, 2.1 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Methyl 3-hydroxy-5-phenoxybenzoate | 2.0 g, 7% yield | OC=1C=C(C(=O)OC)C=C(C1)OC1=CC=CC=C1 | C14H12O4
